US07833820B2
40.00 g (0.152 mol) 1,1,1,4,4-pentachloro-1,4-disilabutane was dissolved in 1000 ml 1,4-dioxane in a 2000 ml vessel. The solution was cooled down to 0° C. and acetylene was bubbled to solution until it was saturated. The solution thus obtained was slowly warmed up to room temperature. 1,4-dioxane was evaporated and obtained crude 1,1,1,4,4-pentachloro-1,4-disila-5-hexene was purified by distillation.

reactant | 1,1,1,4,4-pentachloro-1,4-disilabutane | 0.152 mol, 40.00 g | Cl[Si](CC[SiH](Cl)Cl)(Cl)Cl | C2H5Cl5Si2
reactant | 1,4-dioxane | 1000 ml | O1CCOCC1 | C4H8O2
product | 1,1,1,4,4-pentachloro-1,4-disila-5-hexene | Cl[Si](CC[Si](C=C)(Cl)Cl)(Cl)Cl | C4H7Cl5Si2
